US08470982B2
Preparation of 2-(6-bromo-pyridin-2-yl)-1-phenyl-propan-2-ol (3j)
According to Example 2, the Grignard reagent 1d (freshly prepared via bromine-magnesium exchange[6] from 2,5-dibromopyridine (391 mg, 1.65 mmol; 1.10 equiv) and i-PrMgCl.LiCl (1.00 M in THF; 1.62 mL, 1.62 mmol, 1.08 equiv) at −10° C.) was reacted with 1-phenyl-propan-2-one (201 mg; 1.50 mmol) in the presence of LaCl3.2LiCl (0.33 M; 4.55 mL, 1.50 mmol, 1.00 equiv). The crude product was purified by flash column chromatography (silica; pentane:Et2O, 9:1, 0.2 vol-% NEt3) to give the desired product as colorless oil (355 mg, 81%).

reactant | bromine magnesium | BrBr.[Mg]
reactant | 2,5-dibromopyridine | 1.65 mmol, 391 mg, 1.10 equiv | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | LiCl | 1.62 mmol, 1.00 M, 1.62 mL, 1.08 equiv | [Li+].[Cl-]
reactant | 1-phenyl-propan-2-one | 1.50 mmol, 201 mg | C1(=CC=CC=C1)CC(C)=O | C9H10O
product | 2-(6-bromo-pyridin-2-yl)-1-phenyl-propan-2-ol | 355 mg, 81% | BrC1=CC=CC(=N1)C(CC1=CC=CC=C1)(C)O | C14H14BrNO
